US09315495B2
To a solution of 2-methoxythiophene (79 mg, 0.69 mmol) in 3.5 mL of 9:1 tetrahydrofuran/hexamethylphosphoramide under argon at −78° C. was added n-butyllithium (0.30 mL, 2.5 M in hexanes) dropwise. After stirring at −78° C. for 20 minutes, dimethylformamide (0.27 mL, 3.5 mmol) was added in a single portion and the reaction mixture allowed to warm to room temperature while stirring, before being poured into 25 mL of 1 N hydrochloric acid. Organics were extracted with ether (2×25 mL), dried over magnesium sulfate, filtered and concentrated. The crude residue was subjected to chromatography on silica gel with gradient elution (10-12% ethyl acetate in hexanes) to give 5-methoxy-2-thiophenecarbaldehyde (71 mg, 72%). Used without further characterization.

reactant | 2-methoxythiophene | 0.69 mmol, 79 mg | COC=1SC=CC1 | C5H6OS
reactant | n-butyllithium | 2.5 M, 0.30 mL | C(CCC)[Li]
reactant | dimethylformamide | 3.5 mmol, 0.27 mL | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 1 N, 25 mL | Cl | ClH
solvent | tetrahydrofuran hexamethylphosphoramide | 3.5 mL | O1CCCC1.CN(P(=O)(N(C)C)N(C)C)C
product | 5-methoxy-2-thiophenecarbaldehyde | 71 mg, 72% | COC1=CC=C(S1)C=O | C6H6O2S
